US08431573B2
2-(3-Chlorobenzyl)-6-oxo-4-(propylamino)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.34 mmol) of 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 203 mg (3.43 mmol) of n-propylamine to give 12 mg (12% of theory) of the title compound.

reactant | 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.34 mmol, 100 mg | ClC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C13H10ClN3OS
reactant | n-propylamine | 3.43 mmol, 203 mg | C(CC)N | C3H9N
product | 2-(3-Chlorobenzyl)-6-oxo-4-(propylamino)-1,6-dihydropyrimidine-5-carbonitrile | ClC=1C=C(CC=2NC(C(=C(N2)NCCC)C#N)=O)C=CC1 | C15H15ClN4O
